US07060827B2
In a manner similar to the preparation of 5-amino-6-ethoxycarbonyl-N2,N4-bis(3-hydroxyphenyl)-2,4-pyrimidinediamine, 6-ethoxycarbonyl-N2,N4-bis(ethoxycarbonylmethyl)-5-nitro-2,4-pyrimidinediamine, hydrogen, and 10% Pd/C were reacted to yield 5-amino-N2,N4-bis(ethoxycarbonylmethyl)-6-ethoxycarbonyl-2,4-pyrimidinediamine. 1H NMR (CDCl3): δ 6.25 (bs, 2H), 4.38 (q, 2H, J=6.9 Hz), 4.23–4.14 (m, 6H), 4.05 (bs, 2H), 1.39 (t, 3H, J=6.9 Hz), 1.30–1.22 (m, 6H); LCMS: ret. time: 17.67 min.; purity: 95%; MS (m/e): 370 (MH+).

reactant | 5-amino-6-ethoxycarbonyl-N2,N4-bis(3-hydroxyphenyl)-2,4-pyrimidinediamine | NC=1C(=NC(=NC1C(=O)OCC)NC1=CC(=CC=C1)O)NC1=CC(=CC=C1)O | C19H19N5O4
reactant | 6-ethoxycarbonyl-N2,N4-bis(ethoxycarbonylmethyl)-5-nitro-2,4-pyrimidinediamine | C(C)OC(=O)C1=C(C(=NC(=N1)NCC(=O)OCC)NCC(=O)OCC)[N+](=O)[O-] | C15H21N5O8
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | [Pd] | Pd
product | 5-amino-N2,N4-bis(ethoxycarbonylmethyl)-6-ethoxycarbonyl-2,4-pyrimidinediamine | NC=1C(=NC(=NC1C(=O)OCC)NCC(=O)OCC)NCC(=O)OCC | C15H23N5O6
